US07482439B2
Caprazamycin B (200 mg) was dissolved in 80% aqueous acetic acid solution (6 ml) and the resulting solution was heated at 70° C. for 2 hours. The resulting reaction solution was concentrated, and to the resulting syrupy concentrate was added an amount of acetone. The precipitate so deposited was recovered by filtration, washed with acetone and dried. Thus, there was afforded caprazene (96.3 mg) as a colorless solid. Yield; 99%.

reactant | Caprazamycin B | 200 mg | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC(=O)C[C@@H](C)CC(=O)O[C@@H](CCCCCCCCCCCC(C)C)CC(=O)O[C@H]2CN([C@H](C(=O)N([C@@H]2C(=O)O)C)[C@@H]([C@@H]3[C@H]([C@H]([C@@H](O3)N4C=CC(=O)NC4=O)O)O)O[C@H]5[C@@H]([C@@H]([C@H](O5)CN)O)O)C)OC)OC)OC | C54H89N5O22
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | caprazene | 96.3 mg, Yield; 99% | CN1CC=C(N(C(=O)[C@@H]1C([C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)O[C@H]4[C@@H]([C@@H]([C@H](O4)CN)O)O)C)C(=O)O | C22H31N5O12
